US04713383
As in Example 37, 9-chloro-2-(2-furyl)-5-methylthio[1,2,4]triazolo[1,5-c]quinazoline (1.06 g) is reacted in a stainless steel pressure vessel with isopropylamine (50 ml) at 150° (external temperature) for 6 hours to afford 9-chloro-2-(2-furyl)-5-isopropylimino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline, which is purified by ethanol recrystallization, mp. 140°-141°.

reactant | 9-chloro-2-(2-furyl)-5-methylthio[1,2,4]triazolo[1,5-c]quinazoline | 1.06 g | ClC1=CC=2C=3N(C(=NC2C=C1)SC)N=C(N3)C=3OC=CC3 | C14H9ClN4OS
solvent | isopropylamine | 50 ml | C(C)(C)N | C3H9N
product | 9-chloro-2-(2-furyl)-5-isopropylimino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline | ClC1=CC=2C=3N(C(NC2C=C1)=NC(C)C)N=C(N3)C=3OC=CC3 | C16H14ClN5O
